US06653478B2
1-[N(Tert-butoxycarbonyl)piperidin-4yl]-1,3-dihydro-benzimidazol-2-one (Compound 9)
Di-tert-butyl dicarbonate (30 g, 0.14M) was slowly added to a cold (0° C.) solution of commercially available 4-(2-keto-1-benzimidazolinyl)piperidine (30 g, 0.14M) in dry tetrahydrofuran (250 ml). The mixture was slowly warmed up to room temperature and stirring was continued for 4 hours. Water (250 ml) was slowly added and stirring was continued overnight. The THF was removed under reduced pressure and the aqueous mixture extracted with ethyl acetate (2×250 ml). The combined ethyl acetate (EtOAc) extracts were washed with brine and dried over MgSO4. The solvent was removed under reduced pressure to give the white solid product (42.2 g, 96%).

reactant | Di-tert-butyl dicarbonate | 0.14M, 30 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 4-(2-keto-1-benzimidazolinyl)piperidine | 0.14M, 30 g | O=C1NC2=C(N1C1CCNCC1)C=CC=C2 | C12H15N3O
reactant | Water | 250 ml | O | H2O
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | 1-[N(Tert-butoxycarbonyl)piperidin-4yl]-1,3-dihydro-benzimidazol-2-one | 42.2 g, 96% | C(C)(C)(C)OC(=O)N1CCC(CC1)N1C(NC2=C1C=CC=C2)=O | C17H23N3O3
